US08754075B2
5-Cyano-pyridine-2-carboxylic acid [3-((4S,5S)-2-amino-5-fluoro-4-fluoromethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The condensation of (4S,5S)-4-(5-amino-2-fluoro-phenyl)-5-fluoro-4-fluoromethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (A8.6) and 5-cyano-pyridine-2-carboxylic acid following procedure I yielded the title compound as a white solid. MS (ISP): m/z=390.4 [M+H]+.

reactant | (4S,5S)-4-(5-amino-2-fluoro-phenyl)-5-fluoro-4-fluoromethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OC[C@H]1F)N)CF)F | C11H12F3N3O
reactant | 5-cyano-pyridine-2-carboxylic acid | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
product | 5-Cyano-pyridine-2-carboxylic acid [3-((4S,5S)-2-amino-5-fluoro-4-fluoromethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OC[C@H]([C@@](N1)(CF)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1)C#N)F | C18H14F3N5O2
